US05155259
To 5 ml of a DMF solution containing 200 mg (0.05181 mmol) of 2,2'-dihydroxy-5,5'-bis(2-ethoxycarbonylethyl) biphenyl and 2.316 ml (20.72 mmol) of methyl iodide, there was added 572 mg (2.072 mmol) of anhydrous potassium carbonate and a small amount of copper powder and the resulting mixture was agitated for 4 days at room temperature and for a further 2 days at 60° C. The reaction mixture was filtered by suction through Celite to remove the solid matter, which was washed with ethyl acetate. After the solvent in the filtrate was evaporated off under reduced pressure, the evaporated residue was dissolved in chloroform. This solution was washed with dilute hydrochloric acid, dilute aqueous sodium bicarbonate, water and saline solution in this sequence and was dried over anhydrous sodium sulfate. The residue obtained after the solvent had been evaporated off was purified by silica gel column chromatography (with 20 g of WAKO-gel C-200, eluent: toluene and toluene/ethyl acetate of 50/1) to obtain 182 mg (0.4936 mmol, 85%) of 2,2'-dimethoxy-5,5'-bis(2-ethoxycarbonylethyl) biphenyl as an oily product.

reactant | 2,2'-dihydroxy-5,5'-bis(2-ethoxycarbonylethyl) biphenyl | 0.05181 mmol, 200 mg | OC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)O | C22H26O6
reactant | methyl iodide | 20.72 mmol, 2.316 ml | CI | CH3I
reactant | potassium carbonate | 2.072 mmol, 572 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | copper | [Cu] | Cu
product | 2,2'-dimethoxy-5,5'-bis(2-ethoxycarbonylethyl) biphenyl | 0.4936 mmol, 182 mg, 85% | COC1=C(C=C(C=C1)CCC(=O)OCC)C1=C(C=CC(=C1)CCC(=O)OCC)OC | C24H30O6
